US09403835B2
Step 1: 2-bromo-2,2-difluoro-1-(4-methyl-piperazin-1-yl)-ethanone
1-Methyl-piperazine (1.23 g; 12.3 mmol; 5 eq.) was added to a solution of bromo-difluoro-acetic acid ethyl ester (500 mg; 2.46 mmol; 1 eq.) in THF (50 mL) and the reaction mixture was stirred at room temperature for 16 hours then concentrated in vacuo. The residue was taken up in EA, washed with water, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (450 mg, 71%) as a yellow oil.

reactant | 1-Methyl-piperazine | 12.3 mmol, 1.23 g, 5 eq. | CN1CCNCC1 | C5H12N2
reactant | bromo-difluoro-acetic acid ethyl ester | 2.46 mmol, 500 mg, 1 eq. | C(C)OC(C(F)(F)Br)=O | C4H5BrF2O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-bromo-2,2-difluoro-1-(4-methyl-piperazin-1-yl)-ethanone | 450 mg, 71% | BrC(C(=O)N1CCN(CC1)C)(F)F | C7H11BrF2N2O
